US04863935
Cyclohexylisothiocyanate (0.2 ml) and N-triphenylmethylcysteamine (150 mg) were subjected to the reaction described in Reference 5. From the reaction product, triphenylmethyl was removed by the method described in Reference 4 to obtain 2-cyclohexylaminothiocarbonylthioethylamine (crude formate: 92 mg). The product was dissolved in anhydrous methanol (2 ml). Triethylamine (0.24 ml) and mitomycin A (97 mg: 0.8 molar equivalent) were added to the reaction solution which was then treated in a similar manner to that described in Example 1 to obtain Compound 37 (54 mg) in the form of grayish blue powders with a yield of 36%.

reactant | Cyclohexylisothiocyanate | 0.2 ml | C1(CCCCC1)N=C=S | C7H11NS
reactant | N-triphenylmethylcysteamine | 150 mg | C1(=CC=CC=C1)C(NCCS)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NS
product | 2-cyclohexylaminothiocarbonylthioethylamine | 92 mg | C1(CCCCC1)NC(=S)SCCN | C9H18N2S2
